US05662911
1. 7-chloro-1-methyl-5-phenyl-1H-1,4-benzodiazepine-2(3H)on-4-oxide (VI)
5.70 g (20 mmol) of 7-chloro-1-methyl-5-phenyl-1H-1,4-benzodiazepine-2(3H)on (manufactured by Sigma, No. T 8275) are dissolved in 150 ml of dichloromethane and 13.8 g (40 mmol) of 3-chloro-peroxybenzoic acid (manufactured by Aldrich, No. 27.303-1) are added under stirring at 20° C. Stirring of the solution is continued for 1.5 h at 20° C. Then the reaction mixture is washed first with 200 ml of 5% NH3 and subsequently with 200 μl of 0.1 n NaOH. The solvent is removed on an rotatione evaporator and the remaining oily residue is dissolved in 25 ml of isopropanol under heating to 40°-45° C. Subsequently, the product is allowed to crystallize under slow cooling down to room temperature. 2 hours after the onset of crystallization, the solid product 2 is drawn off and washed with 50 ml of isopropanol and 50 ml of diisopropylether. The mixture is then dried over night over paraffin in an exsiccator.

reactant | 7-chloro-1-methyl-5-phenyl-1H-1,4-benzodiazepine-2(3H)on | 20 mmol, 5.70 g | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1 | C16H13ClN2O
reactant | 3-chloro-peroxybenzoic acid | 40 mmol, 13.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 7-chloro-1-methyl-5-phenyl-1H-1,4-benzodiazepine-2(3H)on-4-oxide | ClC=1C=CC2=C(C(=[N+](CC(N2C)=O)[O-])C2=CC=CC=C2)C1 | C16H13ClN2O2
